US05852014
Thiazolo[3,2-a]indole was treated with trifluoroacetic anhydride using the method of Description 13a to afford 9-trifluoroacetylthiazolo[3,2-a]indole as a beige solid (95%).

reactant | Thiazolo[3,2-a]indole | S1C=CN2C1=CC=1C=CC=CC21 | C10H7NS
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 9-trifluoroacetylthiazolo[3,2-a]indole | 95% | FC(C(=O)C1=C2N(C=3C=CC=CC13)C=CS2)(F)F | C12H6F3NOS
